US04855442
5-Difluoromethyl-3-hydroxy-1-methylpyrazole
10.2 g (0.068 mol) of ethyl 4,4-difluoro-2-butynoate in 20 ml of methylene chloride was added dropwise to a stirred solution of 4 ml (0.075 mol) of methylhydrazine in 80 ml of methylene chloride cooled to -78° C. The resultant reaction mixture was stirred overnight and subsequently concentrated in vacuo to afford 8.63 g of a clear, yellow oil. The oil was dissolved in ethyl acetate and washed with 10% aqueous sodium bicarbonate. The organic layer was dried, concentrated and recrystallized from carbon tetrachloride to give 2.2 g (21.7% yield) of a white crystalline solid, m.p. 115°-119° C.

reactant | ethyl 4,4-difluoro-2-butynoate | 0.068 mol, 10.2 g | FC(C#CC(=O)OCC)F | C6H6F2O2
reactant | methylhydrazine | 0.075 mol, 4 ml | CNN | CH6N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Difluoromethyl-3-hydroxy-1-methylpyrazole | 2.2 g, 21.7% yield | FC(C1=CC(=NN1C)O)F | C5H6F2N2O
